US06927221B2
1-(1-Ethylpropyl)-6-mesityl-4-methyl-1H-pyrrolo[3,2-c][1,7]naphthyridine
An activated manganese dioxide (108 mg, 1.25 mmol) was added to a solution of 1-(1-ethylpropyl)-6-mesityl-4-methyl-2,3-dihydro-1H-pyrrolo[3,2-c][1,7]naphthyridine (93 mg, 0.25 mmol) in toluene (9.0 mL) and methylene chloride (3.0 mL) and the mixture was heated under reflux for three days. After filtering through Celite, the mixture was evaporated. The residue was purified by silica gel column chromatography (10% ethyl acetate/hexane), to give the title compound (55 mg) as pale brown crystals.

reactant | 1-(1-ethylpropyl)-6-mesityl-4-methyl-2,3-dihydro-1H-pyrrolo[3,2-c][1,7]naphthyridine | 0.25 mmol, 93 mg | C(C)C(CC)N1CCC=2C(=NC=3C(=NC=CC3C21)C2=C(C=C(C=C2C)C)C)C | C25H31N3
solvent | toluene | 9.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 1.25 mmol, 108 mg | [O-2].[O-2].[Mn+4]
product | 1-(1-Ethylpropyl)-6-mesityl-4-methyl-1H-pyrrolo[3,2-c][1,7]naphthyridine | 55 mg | C(C)C(CC)N1C=CC=2C(=NC=3C(=NC=CC3C21)C2=C(C=C(C=C2C)C)C)C | C25H29N3
